US07115611B2
E] 2-{4-[2-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
To 0.102 g (0.428 mmol) of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 0.134 g (0.429 mmol) of the above prepared 3-chloromethyl-2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridine, dissolved in 2.5 ml of abs. acetonitrile, was added 0.168 g of Cs2CO3 (0.516 mmol). The reaction was stirred over night at ambient temperature. Pouring onto crashed ice/NH4Cl-solution, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=88/12) yielded 0.221 g of pure title compound as colorless oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.428 mmol, 0.102 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 3-chloromethyl-2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C16H13ClF3N
reactant | Cs2CO3 | 0.516 mmol, 0.168 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-{4-[2-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.221 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C29H30F3NO4
